US08486950B2
Isopropyl 4-(2,6-dichlorobenzamido)pyridin-2-ylcarbamate
To a stirred solution of isopropyl chloroformate (0.066 g, 0.53 mmol) in 3 ml of pyridine was added N-(2-aminopyridin-4-yl)-2,6-dichlorobenzamide (0.1 g, 0.36 mmol). The resulting mixture was stirred for another 30 min and then concentrated under reduced pressure. The residue was purified via prep-HPLC (Gilson GX 281, Shim-pack PRC-ODS 250 mm×20 mm×2, gradient: CH3CN/10 mm/L NH4HCO3, 17 min) to give the desired product as a white solid (0.025 g, yield: 19%). 1H NMR (DMSO-d6, 500 MHz): δ 11.17 (s, 1H), 9.97 (s, 1H), 8.21-8.17 (m, 2H), 7.61-7.53 (m, 3H), 7.40 (m, 1H), 4.90 (m, 1H), 1.25 (t, J=5.5 Hz, 6H). LCMS (ESI) m/z: 368.0 [M+H+].

reactant | isopropyl chloroformate | 0.53 mmol, 0.066 g | ClC(=O)OC(C)C | C4H7ClO2
reactant | N-(2-aminopyridin-4-yl)-2,6-dichlorobenzamide | 0.36 mmol, 0.1 g | NC1=NC=CC(=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C12H9Cl2N3O
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | Isopropyl 4-(2,6-dichlorobenzamido)pyridin-2-ylcarbamate | 0.025 g, yield: 19% | ClC1=C(C(=O)NC2=CC(=NC=C2)NC(OC(C)C)=O)C(=CC=C1)Cl | C16H15Cl2N3O3
